US04423047
2-Methylsulfinyl-5-bromopyrimidine
The title compound was prepared by oxidation of 2-methylthio-5-bromopyrimidine by m-chloroperbenzoic acid in chloroform as described in Example 39; yield 90%, m.p. 90° C. (n-heptane). 1H NMR (CDCl3): δ2.91 (Me),. 8.90 (H-4, H-6).

reactant | 2-methylthio-5-bromopyrimidine | CSC1=NC=C(C=N1)Br | C5H5BrN2S
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | n-heptane | CCCCCCC | C7H16
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-Methylsulfinyl-5-bromopyrimidine | yield 90% | CS(=O)C1=NC=C(C=N1)Br | C5H5BrN2OS
